US07776875B2
Preparation of Intermediate E/Z 6-Chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
To a solution of E/Z 2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid ethyl ester (7.2 g, 17.2 mmol) in dichloromethane (50 mL) at r.t was added di-tert-butyl-dicarbonate (4.5 g, 20.6 mmol), followed by the addition of 4-dimethylaminopyridine (0.2 g, 1.72 mmol). The reaction mixture was stirred at r.t. for 0.5 h, then the mixture was washed with 0.5N HCl aqueous solution. The organic layer was separated, dried and concentrated to give title compound as a yellow solid (8 g).

reactant | 2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid ethyl ester | 17.2 mmol, 7.2 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)Cl)C=C1C(NC2=CC(=CC=C12)Cl)=O)=O | C21H19Cl2NO4
reactant | di-tert-butyl-dicarbonate | 20.6 mmol, 4.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.72 mmol, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 6-Chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 8 g | C(C)(C)(C)OC(=O)N1C(C(C2=CC=C(C=C12)Cl)=CC1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O | C26H27Cl2NO6
